US06750348B1
To a solution of 3-pyrroline (1.0 g, 14.5 mmol) in 0° C. THF (50 mL) and water (20 mL) mixture was added di-tert-butyldicarbonate (4.75 g, 21.8 mmol) over a ten minute period. The resulting solution was then stirred for 3 hours, gradually warming to room temperature. Ethyl acetate (100 mL) was then added to the reaction, and the aqueous and organic layers were separated. Following extraction of the aqueous layer with a second portion of ethyl acetate, the combined organic fractions were washed with 10% citric acid and then brine. The solution was then dried and concentrated to afford N-Boc-3-pyrroline in quantitative yield.

reactant | 3-pyrroline | 14.5 mmol, 1.0 g | N1CC=CC1 | C4H7N
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | water | 20 mL | O | H2O
reactant | di-tert-butyldicarbonate | 21.8 mmol, 4.75 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-Boc-3-pyrroline | quantitative yield | C(=O)(OC(C)(C)C)N1CC=CC1 | C9H15NO2
